US07273882B2
To lithium aluminum hydride (0.57 g, 15 mmol) in dry THF (20 mL) was added dropwise 3,5-dichloro-4-aminobenzonitrile (1.87 g, 10 mmol) in THF (30 mL). The mixture was stirred at RT for 2 hours. Then, sodium sulfate decahydrate (4.83 g, 15 mmol) was added and stirred for 30 min. The solid was filtered off and washed with THF for three times. The solvent was removed by rotovap and residue was purified by column with Methanol/DCM (3:7) as the eluant. 3,5-Dichloro-4-aminobenzylamine was obtained as an off-white solid (1.5 g, 80%).

reactant | lithium aluminum hydride | 15 mmol, 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,5-dichloro-4-aminobenzonitrile | 10 mmol, 1.87 g | ClC=1C=C(C#N)C=C(C1N)Cl | C7H4Cl2N2
reactant | sodium sulfate decahydrate | 15 mmol, 4.83 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3,5-Dichloro-4-aminobenzylamine | ClC=1C=C(CN)C=C(C1N)Cl | C7H8Cl2N2
